US07067529B2
To a stirred solution of [1-(3-sec-butoxy-benzoyl)-6,7-dimethoxy-isoquinolin-4-yl]-acetic acid methyl ester (170 mg, 0.39 mmol) in methanol (3.5 mL) was added 1.0 N sodium hydroxide solution (2.0 mL, 1.56 mmol). The reaction mixture was heated at 90° C. for 1 h, concentrated in vacuo and diluted with water (3 mL). The aqueous phase was extracted with diethyl ether (1×10) and then acidified to pH=4 by addition of 1N hydrogen chloride solution. The aqueous phase was then extracted with dichloromethane (3×15 mL). The combined extracts were washed with saturated aqueous sodium chloride solution (20 mL), dried with anhydrous magnesium sulfate, filtered and concentrated in vacuo. HPLC purification afforded [1-(3-sec-butoxy-benzoyl)-6,7-dimethoxy-isoquinolin-4-yl]-acetic acid trfluoroacetic acid salt (59 mg, 36% yield) as a light yellow solid. HR-MS m/e calcd for C24H15N1O6 (M−H+) 424.1755, found 424.1758; 1H NMR (300 MHz) compatible.

reactant | [1-(3-sec-butoxy-benzoyl)-6,7-dimethoxy-isoquinolin-4-yl]-acetic acid methyl ester | 0.39 mmol, 170 mg | COC(CC1=CN=C(C2=CC(=C(C=C12)OC)OC)C(C1=CC(=CC=C1)OC(C)CC)=O)=O | C25H27NO6
reactant | sodium hydroxide | 1.56 mmol, 1.0 N, 2.0 mL | [OH-].[Na+]
solvent | methanol | 3.5 mL | CO | CH4O
product | [1-(3-sec-butoxy-benzoyl)-6,7-dimethoxy-isoquinolin-4-yl]-acetic acid | C(C)(CC)OC=1C=C(C(=O)C2=NC=C(C3=CC(=C(C=C23)OC)OC)CC(=O)O)C=CC1 | C24H25NO6
